US04383945
A solution of diazomethane in ether (2 ml) was added to a solution of [(2R,3S)-3-(1-hydroxy-1-methylethyl)-4-oxoazetidin-2-yl]acetic acid (23 mg) in methanol (3 ml) at 0° C. and the mixture was stirred for an hour at 0° C. Acetic acid (2 drops) was added to the mixture at 0° C. and the mixture was evaporated in vacuo to give methyl [(2R,3S)-3-(1-hydroxy-1-methylethyl)-4-oxoazetidin-2-yl]acetate (25 mg).

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | [(2R,3S)-3-(1-hydroxy-1-methylethyl)-4-oxoazetidin-2-yl]acetic acid | 23 mg | OC(C)(C)[C@@H]1[C@H](NC1=O)CC(=O)O | C8H13NO4
solvent | ether | 2 ml | CCOCC | C4H10O
solvent | methanol | 3 ml | CO | CH4O
catalyst | Acetic acid | 2 drops | C(C)(=O)O | C2H4O2
product | methyl [(2R,3S)-3-(1-hydroxy-1-methylethyl)-4-oxoazetidin-2-yl]acetate | 25 mg | OC(C)(C)[C@@H]1[C@H](NC1=O)CC(=O)OC | C9H15NO4
